US08202868B2
Pyrazine-2-carboxylic acid {4-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-amide
0.28 g of 2-pyrazinecarboxylic acid (2.26 mmol) and 0.78 g of 4-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butylamine (2.27 mmol) were dissolved in 30 ml of dichloromethane. Addition of 1.19 g of diisopropylethylamine (9.26 mmol), 0.155 g of hydroxybenzotriazole (HOBt, 1.15 mmol), and 0.487 g of N-ethyl-N′-(3-dimethyl-aminopropyl)-carbodiimide hydrochloride (EDCl, 2.54 mmol) at 0° C. was followed by stirring for 16 h at room temperature. After the addition of 0.24 g of N-ethyl-N′-(3-dimethylaminopropyl)-carbodiimide hydrochloride the mixture was stirred for further 4 h. 50 ml of dichloromethane were added. The organic layer was washed with water and saturated aqueous sodium chloride. The dichloromethane phase was dried over magnesium sulfate, filtered, and concentrated to dryness. The crude product was purified by chromatography on silica gel using ethyl acetate and ethyl acetate-methanol (5%). Evaporation of the solvent yielded 0.568 g of the title compound as a white solid.

reactant | 2-pyrazinecarboxylic acid | 2.26 mmol, 0.28 g | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | 4-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butylamine | 2.27 mmol, 0.78 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCN)C1CCC1 | C20H35N5
reactant | diisopropylethylamine | 9.26 mmol, 1.19 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydroxybenzotriazole | 1.15 mmol, 0.155 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | N-ethyl-N′-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.24 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Pyrazine-2-carboxylic acid {4-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-amide | 0.568 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCNC(=O)C1=NC=CN=C1)C1CCC1 | C25H37N7O
